data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C([CH:11]=[CH:10]1)S(=O)(=O)O.O[S+:20](=O)=O>>C1=C[CH:10]([CH+:11]C(=C1)S(=O)(=O)O)[S:20](=O)(=O)O 10,11=10,20
[H:20][C:21](C#N)([C:22](=[NH2+:23])C#N)N.[C-:10]#N>>C(#N)[C:21](=[C:22](C#N)[NH2:23])N.[H:20][C:10]#N 10=20;22,23=23;20,21=21,22
[H:20][Br:21].C1CC([C:11](=[CH:10]C1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1C(CCC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Br-:21] 10,11=10,20;20,21=21
[H:20][NH+:21](C1CCCCC1N)C(C)(CCC(=O)C2=CC=CC=C2)O.CC(=O)[O-:10].CO>>[H:20][O:10]C(=O)C.CC(CCC(=O)C1=CC=CC=C1)([NH:21]C2CCCCC2N)O.CO 10=20;20,21=21
C[NH2:10].CO[CH:20]=[OH+:21].[Cl-]>>C[NH2+:10][CH:20]([OH:21])OC.[Cl-] 10=20;20,21=21
[H:20][O+:21](CCCO)C(C1=CC(=C(C=C1Br)OC)OC)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.COC1=C(C=C(C(=C1)C(O)[O:21]CCCO)Br)OC 10=20;20,21=21
[B-:11](C)(C)([CH3:10])[O:20][OH:21]>>[B:11](C)(C)[O:20][CH3:10].[OH-:21] 10,11=10,20;20,21=21
[H:20][NH+:21](CC1=CC=CC=C1)C(C=CC2=CC=CC=C2)[O-].C1=CC=C(C=C1)C[NH2:10].CO>>[H:20][NH2+:10]CC1=CC=CC=C1.C1=CC=C(C=C1)C[NH:21]C(C=CC2=CC=CC=C2)[O-].CO 10=20;20,21=21
[H:20][O+:21]=CCCCCO.[OH2:10]>>[H:20][OH2+:10].C(CCO)CC=[O:21] 10=20;20,21=21
CC[C:20](=[O:21])Cl.[OH-:10]>>CC[C:20]([OH:10])([O-:21])Cl 10=20;20,21=21
C[P:10]([Mg]Br)(Cl)(Cl)[Cl:11]>>C[P+:10]([Mg]Br)(Cl)Cl.[Cl-:11] 10,11=11
CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C:21](SC(=C3C)CCO)[C:20](CCCOCC4=CC=CC=C4)(C(CC(=O)C5=NC=CC=C5)C6=CC=CO6)[O-:10])CCO.CC[NH+](CC)CC.CCO.[Br-]>>CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C-:21]SC(=C3C)CCO)CCO.C1=CC=C(C=C1)COCCC[C:20](=[O:10])C(CC(=O)C2=NC=CC=C2)C3=CC=CO3.CC[NH+](CC)CC.CCO.[Br-] 10=20;20,21=21
C1CCC(CC1)(C[NH2:10])O.[N:20]#[O+:21].O.[Cl-]>>C1CCC(CC1)(C[NH2+:10][N:20]=[O:21])O.O.[Cl-] 10=20;20,21=21
[H:20][N+:21](=C1CCCCC1)C2=CC=CC=C2.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1CCC(=[N:21]C2=CC=CC=C2)CC1.O 10=20;20,21=21
[H:20][O+:21]=C(CCSCC)N.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCSCCC(=[O:21])N 10=20;20,21=21
[H:20][Cl:21].CC1CC([C:11](=[CH:10]1)C)C>>[H:20][CH:10]1C(CC([C+:11]1C)C)C.[Cl-:21] 10,11=10,20;20,21=21
CC[C+:20](C)C.[Br-:10]>>CC[C:20](C)(C)[Br:10] 10=20,
[B-]([O+:21]=[CH:20]C(C)CC)(F)(F)F.CCCC[Sn](CCCC)(CCCC)C[CH:11]=[CH2:10]>>[B-]([O:21][CH:20]([CH2:10][CH+:11]C[Sn](CCCC)(CCCC)CCCC)C(C)CC)(F)(F)F 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)C=[O:10].OO>>[H:20][O+:10]=CC1=CC=C2C(=C1)C3=C(C4=C(C=CN=C4)C(=C3N2C)C)C.OS(=O)(=O)[O-:21].OO 10=20;20,21=21
C[CH:20]([C:21](=[N+]=[N-])P(=O)(OC)OC)[O-:10]>>C[CH:20]=[O:10].COP(=O)([C-:21]=[N+]=[N-])OC 10=20;20,21=21
C[C:13]1=[C:12]2C=CC=C[C:11]2=[CH:10]C=C1.O[S+:20](=O)=O>>C[C+:13]1C=C[CH:10]([C:11]2=[C:12]1C=CC=C2)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][CH:21]1C=C([O+:23]=[C:22]1C2=CC=C(C=C2)C)C3=CC=CC=C3.[OH2:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC1=CC=C(C=C1)[C:22]2=[CH:21]C=C([O:23]2)C3=CC=CC=C3.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C1CC(C(CO1)(C)C)O.[OH2:10].CCO>>[H:20][OH2+:10].CC1(COC(=[O:21])CC1O)C.CCO 10=20;20,21=21
[H:20][N:21](C1=C(C=CC=C1)C#CC2=CC=CC=C2)[N:22]=[OH+:23].[B-]([O:10]C(C)(C)C)(F)(F)F.CC#N>>[H:20][O+:10]([B-](F)(F)F)C(C)(C)C.C1=CC=C(C=C1)C#CC2=C(C=CC=C2)[N:21]=[N:22][OH:23].CC#N 10=20;22,23=23;20,21=21,22
CC12CC[C:20](CC1CCC2=O)([OH2+:21])[O:10]CCO.C(=O)(C(=O)[O-])O>>CC12CC[C:20](=[O+:10]CCO)CC1CCC2=O.[OH2:21].C(=O)(C(=O)[O-])O 10=20;20,21=21
C#CC1(CCC2C1O2)O[S:10](C3=CC=CC=C3)(C4=CC=CC=C4)[O:11]C(C5=CC=CC=C5)(C(F)(F)F)C(F)(F)F.C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O>>C#CC1(CCC2C1O2)O[S+:10](C3=CC=CC=C3)C4=CC=CC=C4.C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)[O-:11].C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O 10,11=11
[CH3+:20].C[Si](C)(C)C[CH:11]=[CH2:10]>>[CH3:20][CH2:10][CH+:11]C[Si](C)(C)C 10,11=10,20
[H:20][OH+:21]CC.CCOC(C(C1=CC=CC=C1)O)(O)[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C(C(C1=CC=CC=C1)O)(O)OCC.CC[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
C[NH2+:21][C:20](NC)([O-:10])Cl>>C[NH2:21].CN[C:20](=[O:10])Cl 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1=CC(=CC=C1C=[O:10])[N+](=O)[O-].CC(CO)O.CC(C)(C(C)(C)O)O.C1=CC=CC=C1>>[H:20][O+:10]=CC1=CC=C(C=C1)[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC(CO)O.CC(C)(C(C)(C)O)O.C1=CC=CC=C1 10=20;20,21=21
[B:20](F)(F)F.CC1C(C(C(C(O1)(C2=CC=C(C=C2)C)[O:10]C)OC(=O)C)OC(=O)C)OC(=O)C>>[B-:20]([O+:10](C)C1(C(C(C(C(O1)C)OC(=O)C)OC(=O)C)OC(=O)C)C2=CC=C(C=C2)C)(F)(F)F 10=20,
CC1[C:20]([OH+:21]1)(C2=CC=CC=C2)[O:10][Si](C)(C)C.C1=CC(=CC(=C1)C(=O)[O-])Cl>>CC([C:20](=[O+:10][Si](C)(C)C)C1=CC=CC=C1)[OH:21].C1=CC(=CC(=C1)C(=O)[O-])Cl 10=20;20,21=21
C[C:11](=[C+:20]CC(CCC1=CC=CC=C1)O[Ti-](Cl)(Cl)(Cl)Cl)[Si-:10](C)(C)C>>C[C+:11]=[C:20](CC(CCC1=CC=CC=C1)O[Ti-](Cl)(Cl)(Cl)Cl)[Si-:10](C)(C)C 10,11=10,20
CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:20](=[O:21])OP(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3.[N-:10]=[N+]=[N-].CC[NH+](CC)CC>>CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:20]([N:10]=[N+]=[N-])([O-:21])OP(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3.CC[NH+](CC)CC 10=20;20,21=21
